US04788206
As described in Example 99, (E)-3-(2-methoxyphenyl)-3-(4-methoxyphenyl)-2-propenal (5 g) was reacted with (carbomethoxymethylene)triphenylphosphorane (6.83 g) in a mixture of carbon tetrachloride (50 ml) and dichloromethane (25 mL) for 4 days at room temperature. The crude ester was isolated in the usual way and was crystallized from 2-propanol-hexane to provide 4.6 g of (E,E)-5-(2-methoxyphenyl)-5-(4-methoxyphenyl)-2,4-pentadienoic acid methyl ester. Recrystallization of a sample from the same solvents gave the analytical specimen, mp 99.5°-102.5° C.

reactant | (E)-3-(2-methoxyphenyl)-3-(4-methoxyphenyl)-2-propenal | 5 g | COC1=C(C=CC=C1)/C(=C/C=O)/C1=CC=C(C=C1)OC | C17H16O3
reactant | (carbomethoxymethylene)triphenylphosphorane | 6.83 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (E,E)-5-(2-methoxyphenyl)-5-(4-methoxyphenyl)-2,4-pentadienoic acid methyl ester | 4.6 g | COC(\C=C\C=C(/C1=CC=C(C=C1)OC)\C1=C(C=CC=C1)OC)=O | C20H20O4
